US07544838B2
4-Hydroxy-benzoic acid (3,5-dimethyl-1H-pyrrol-2-ylmethylene)-hydrazide (DY171)
To a solution of 4-hydroxy-benzoic acid hydrazide (0.3 g, 0.002 mol) and 3,5-dimethyl-pyrrole-2-carboxaldehyde (0.25 g, 0.002 mol) in abs. EtOH (10 mL), was added 1 drop of acetic acid. The reaction mixture was refluxed for 5 hours. The reaction mixture was cooling to room temperature and concentrated to remove solvent. The resulting residue was solidified by EtOAc to give grey solid 0.44 g, in 86% yield, mp: 261.2° C. 1H NMR (CD3OD) δ 8.12 (s, 1H), 7.79 (d, 2H), 6.88 (d, 2H), 5723 (s, 1H), 2.24 (s, 3H), 2.13 (s, 3H). 13C NMR (CD3OD) δ 166.5, 162.5, 139.4, 134.1, 130.5, 127.1, 124.9, 124.1, 116.3, 110.7, 12.9, 10.7. Anal. Calcd for C14H15N3O2: C, 65.35; H, 5.88; N, 16.33. Found: C, 65.52; H, 5.79; N, 16.30.

reactant | 4-hydroxy-benzoic acid hydrazide | 0.002 mol, 0.3 g | OC1=CC=C(C(=O)NN)C=C1 | C7H8N2O2
reactant | 3,5-dimethyl-pyrrole-2-carboxaldehyde | 0.002 mol, 0.25 g | CC1=C(NC(=C1)C)C=O | C7H9NO
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
solvent | EtOH | 10 mL | CCO | C2H6O
product | 4-Hydroxy-benzoic acid (3,5-dimethyl-1H-pyrrol-2-ylmethylene)-hydrazide | 0.44 g, 86% yield | CC1=C(NC(=C1)C)C=NNC(C1=CC=C(C=C1)O)=O | C14H15N3O2
